US08536214B2
g) (1-((1-Amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol
A suspension of palladium hydroxide (0.498 mmol, 350 mg) and benzyl 5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-ylcarbamate (2.69 mmol, 1.2 g) in ethanol (30 mL) was hydrogenated at 2 bar pressure for 30 min before the reaction vessel was vented and the whole filtered through a pad of dicalite. The pad was washed with EtOAc and the filtrate concentrated under reduced pressure. The residue was purified using SCX eluting with 2N NH3/MeOH to give a clear oil which solidified on standing (700 mg, 2.25 mmol, 83%). 1H NMR (400 MHz, CDCl3) δ 1.65 (m, 1H) 2.51 (m, 1H) 2.80 (m, 1H) 2.95 (m, 1H) 1.35 (t, 1H) 4.60 (s, 2H) 5.26 (s, 2H) 7.12 (d, 2H) 7.30 (d, 1H) 7.42 (s, 1H).

reactant | benzyl 5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 2.69 mmol, 1.2 g | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O)C(F)(F)F | C23H22F3N3O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.498 mmol, 350 mg | [OH-].[Pd+2].[OH-]
product | (1-((1-Amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
